US05401877
Methyl-2-(2-bromomethylphenyl)-2-methoxyiminoacetate (2.00 g) and potassium acetate (1.37 g) were suspended in THF, and the suspension was heated under reflux for 3 hours. The reaction mixture was cooled to room temperature, and 30% methanolic methylamine (5.4 g) was added thereto. The resultant mixture was stirred for 10 hours, diluted with water and neutralized, followed by extraction with ethyl acetate. The solvent was dried and distilled off, and the residue was purified by silica gel column chromatography, whereby there was obtained N-methyl-2-(2-hydroxymethylphenyl)-2-methoxyiminoacetamide (1.05 g) .

reactant | Methyl-2-(2-bromomethylphenyl)-2-methoxyiminoacetate | 2.00 g | COC(C(=NOC)C1=C(C=CC=C1)CBr)=O | C11H12BrNO3
reactant | potassium acetate | 1.37 g | C(C)(=O)[O-].[K+]
reactant | methylamine | 5.4 g | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-methyl-2-(2-hydroxymethylphenyl)-2-methoxyiminoacetamide | 1.05 g | CNC(C(=NOC)C1=C(C=CC=C1)CO)=O | C11H14N2O3
